### PR TITLE
[Merged by Bors] - feat: drop completeness assumptions in theorems involving integrals

### PR DESCRIPTION
**Pull request by sgouezel**
When computing the integral of a function taking values in a noncomplete space, we use the junk value `0`. This means that several theorems about integrals hold without completeness assumptions for trivial reasons. We use this to drop several completeness assumptions here and there in mathlib. This involves one nontrivial mathematical fact, that `E →L[𝕜] F` is complete iff `F` is complete, for which we add the missing direction (from left to right) in this PR.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/NormedSpace/HahnBanach/SeparatingDual.lean [hunk 1]
```diff
@@ -142,6 +143,64 @@ theorem exists_continuousLinearEquiv_apply_eq [ContinuousSMul R V]
...
+    exact (ContinuousLinearMap.lipschitz _).cauchySeq_comp hf
+  obtain ⟨a, ha⟩ : ∃ a, Tendsto g atTop (𝓝 a) := cauchy_iff_exists_le_nhds.mp this
+  refine ⟨a m, ?_⟩
+  have : Tendsto (fun n ↦ g n m) atTop (𝓝 (a m)) := ((continuous_eval_left _).tendsto _).comp ha
+  simpa [g, hφ]
+
+lemma completeSpace_continuousMultilinearMap_iff {m : ∀ i, M i} (hm : ∀ i, m i ≠ 0) :
+    CompleteSpace (ContinuousMultilinearMap 𝕜 M F) ↔ CompleteSpace F :=
+  ⟨fun h ↦ completeSpace_of_completeSpace_continuousMultilinearMap 𝕜 F hm,
+    fun h ↦ by infer_instance⟩
```
Comment (RemyDegenne) [inline Mathlib/Analysis/NormedSpace/HahnBanach/SeparatingDual.lean:200]:
```suggestion
    fun h ↦ inferInstance⟩
```

**Review by RemyDegenne — APPROVED** [review]
Thanks!
bors d+
